US08106033B2
A mixture of the 2-((3-hydroxy-4-methoxybenzyl)sulfonyl)acetic acid (1.9 g, 7.3 mmol, 1 eq), 2,4,6-trimethoxybenzaldehyde (1.58 g, 8.0 mmol, 1.1 eq.), benzoic acid (134 mg, 0.15 eq.) and piperidine (81 mg, 0.13 eq.) in toluene (50 mL) was heated at reflux temperature for 2-3 h with continuous removal of water using a Dean-Stark trap. When the reaction was complete by TLC analysis, the reaction mixture was cooled to room temperature. Water was added and the resulting mixture was extracted with ethyl acetate (3×50 mL). The combined organic extract was washed with saturated aqueous sodium bicarbonate solution (50 mL), dilute hydrochloric acid (50 mL), and water (50 mL) and dried (sodium sulfate). Volatile components were removed in vacuo to yield the crude product, which was purified by recrystallization from isopropanol to yield 1.8 g (62.5%) of the desired (E)-5-((2,4,6-trimethoxystyryl-sulfonyl)methyl)-2-methoxyphenol.

reactant | 2-((3-hydroxy-4-methoxybenzyl)sulfonyl)acetic acid | 7.3 mmol, 1.9 g, 1 eq | OC=1C=C(CS(=O)(=O)CC(=O)O)C=CC1OC | C10H12O6S
reactant | 2,4,6-trimethoxybenzaldehyde | 8.0 mmol, 1.58 g, 1.1 eq. | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
reactant | benzoic acid | 134 mg, 0.15 eq. | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 81 mg, 0.13 eq. | N1CCCCC1 | C5H11N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-5-((2,4,6-trimethoxystyryl-sulfonyl)methyl)-2-methoxyphenol | 1.8 g, 62.5% | COC1=C(/C=C/S(=O)(=O)CC=2C=CC(=C(C2)O)OC)C(=CC(=C1)OC)OC | C19H22O7S
